US07741326B2
3-[2-Acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrole-1-carboxylic acid tert-butyl ester (0.114 gm, 0.253 mmol) and platinum (5% on carbon, 0.035 gm) were added to ethyl alcohol (45 ml) and placed under hydrogen (balloon) at 55° C. for two hours. Additional platinum (5% on carbon, 0.065 gm) was added and heated at 60° C. under hydrogen for three hours. The mixture was filtered, concentrated and purified by column chromatography (ethyl acetate/hexane gradient) to give 3-[2-acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.096 gm, 83% yield).

reactant | 3-[2-Acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrole-1-carboxylic acid tert-butyl ester | 0.253 mmol, 0.114 gm | C(C)(C)(C)OC(=O)N1C=C(C=C1)C1=CC(=CC=2C(=C(OC21)C(C)=O)CC2=CC(=CC=C2)F)F | C26H23F2NO4
catalyst | platinum | 0.035 gm | [Pt] | Pt
catalyst | platinum | 0.065 gm | [Pt] | Pt
solvent | ethyl alcohol | 45 ml | C(C)O | C2H6O
product | 3-[2-acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.096 gm, 83% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC(=CC=2C(=C(OC21)C(C)=O)CC2=CC(=CC=C2)F)F | C26H27F2NO4
